2203-12-26 10:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Pneumonia, atrial fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tachycardia to 130s with chest pain this AM
   24 Hour Events:
 EKG - At [**2203-12-26**] 06:42 AM
   Thoracentesis of of ~100cc yesterday.  Fluid exudative.
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Ceftriaxone - [**2203-12-25**] 09:00 PM
   Cefipime - [**2203-12-26**] 03:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2203-12-25**] 08:02 PM
   Diltiazem - [**2203-12-26**] 09:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain
   Respiratory: No(t) Dyspnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2203-12-26**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 133 (72 - 133) bpm
   BP: 109/64(75) {88/36(50) - 122/64(75)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 78 kg
             Total In:
                                                                     50 mL
                                                                    650 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                     50 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                    470 mL
   Urine:
                                                                    410 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout R, Bronchial: throughout R)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   9.1 g/dL
   120 K/uL
   106 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   62 mg/dL
   102 mEq/L
   139 mEq/L
   29.4 %
   10.1 K/uL
        [image002.jpg]
                             [**2203-12-26**]  02:06 AM
   WBC
   10.1
   Hct
   29.4
   Plt
   120
   Cr
   2.5
   TropT
   0.13
   Glucose
   106
   Other labs: CK / CKMB / Troponin-T:74//0.13, Ca++:8.7 mg/dL, Mg++:1.5
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to pneumonia and complicated parapneumonic effusion.
   1. Respiratory Failure: Does have a possible complicated pleural
   effusion.  Cont vanc/cefepime/azithro.  Will consult IP for complicated
   effusion.  Chest CT.  Urine Legionella
   2. Afib/RVR: Will continue to try to bring HR down - has been c/o chest
   pressure when HR in 130s.  Start dilt gtt. ASA
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-12-25**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2203-12-27 10:28:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tachy in afib to 120s this AM
   Seen by IP yesterday - VATS recommended, but pt refused
   Pt expressed wish to be DNR/DNI in conversation with ICU resident
   24 Hour Events:
 EKG - At [**2203-12-26**] 09:30 AM
 TRANSTHORACIC ECHO - At [**2203-12-26**] 01:45 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Ceftriaxone - [**2203-12-25**] 09:00 PM
   Cefipime - [**2203-12-26**] 03:15 AM
   Vancomycin - [**2203-12-27**] 08:48 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2203-12-26**] 02:02 PM
   Heparin Sodium (Prophylaxis) - [**2203-12-27**] 08:47 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2203-12-27**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 127 (65 - 135) bpm
   BP: 123/69(83) {77/41(50) - 135/70(84)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 78 kg
             Total In:
                                                                  1,303 mL
                                                                  1,380 mL
   PO:
                                                                    500 mL
                                                                  1,180 mL
   TF:
   IVF:
                                                                    803 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    300 mL
   Urine:
                                                                  1,190 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    113 mL
                                                                  1,080 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.38/43/58/26/0
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   on L, Diminished: on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   8.8 g/dL
   139 K/uL
   108 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   67 mg/dL
   104 mEq/L
   139 mEq/L
   29.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2203-12-26**]  02:06 AM
                             [**2203-12-26**]  03:00 PM
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
   WBC
   10.1
   9.5
   Hct
   29.4
   29.0
   Plt
   120
   139
   Cr
   2.5
   2.5
   2.4
   TropT
   0.13
   TCO2
   26
   Glucose
   106
   125
   108
   Other labs: CK / CKMB / Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: CT chest [**12-26**]: large L-sided pneumonia
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to pneumonia and complicated parapneumonic effusion.
   1. Respiratory Failure: CT scan c/w large pneumina with significant
   effusion in multiple lobes/segments on L.  Cont vanc/cefepime/azithro.
   Managing supportively given wish to be DNR/DNI
   2. Afib/RVR: Will continue to try to bring HR down with standing plus
   prn beta blocker
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-12-26**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2203-12-28 09:25:00 Physician Attending Progress Note
Chief Complaint: Rspiratory Failure, Multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Became more hypoxemic on NRB yesterday accomopanied by increasing
   agitation.  Was on NIPPV last night but now on shovel mask plus nasal
   cannula.  Sats slightly improved
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2203-12-27**] 04:00 PM
 NON-INVASIVE VENTILATION - STOP [**2203-12-28**] 02:00 AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Ceftriaxone - [**2203-12-25**] 09:00 PM
   Vancomycin - [**2203-12-27**] 08:48 AM
   Cefipime - [**2203-12-28**] 04:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2203-12-27**] 02:10 PM
   Morphine Sulfate - [**2203-12-27**] 04:41 PM
   Haloperidol (Haldol) - [**2203-12-27**] 08:21 PM
   Heparin Sodium (Prophylaxis) - [**2203-12-28**] 04:20 AM
   Metoprolol - [**2203-12-28**] 04:22 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2203-12-28**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 82 (75 - 126) bpm
   BP: 132/64(83) {78/49(55) - 153/91(99)} mmHg
   RR: 24 (13 - 28) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 78 kg
             Total In:
                                                                  1,560 mL
                                                                     50 mL
   PO:
                                                                  1,360 mL
             TF:
   IVF:
                                                                    200 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    763 mL
                                                                    235 mL
   Urine:
                                                                    763 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    797 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (437 - 800) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 19 cmH2O
   SpO2: 88%
   ABG: ///27/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   on L, Wheezes : on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more oriented
   then last PM
   Labs / Radiology
   9.4 g/dL
   179 K/uL
   111 mg/dL
   2.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   78 mg/dL
   105 mEq/L
   143 mEq/L
   30.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2203-12-26**]  02:06 AM
                             [**2203-12-26**]  03:00 PM
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
   WBC
   10.1
   9.5
   11.2
   Hct
   29.4
   29.0
   30.0
   Plt
   120
   139
   179
   Cr
   2.5
   2.5
   2.4
   2.7
   TropT
   0.13
   TCO2
   26
   Glucose
   106
   125
   108
   111
   Other labs: CK / CKMB / Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -dided pneumonia
   1. Respiratory Failure: Slightly improved today of NIPPV. Can cont to
   use prn.  Managing agitation continues to be important but doing better
   this AM.  Responded well to Haldol.  Cont vanc/cefepime
   2. Afib/RVR: prn beta blocker - HR currently well controlled for now.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-12-26**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2203-12-29 12:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM.  Still requiring hi-flow O2.
   24 Hour Events:
   Desat to 80s overnight that resolved with nebs
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2203-12-29**] 04:15 AM
   Vancomycin - [**2203-12-29**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2203-12-28**] 11:57 PM
   Heparin Sodium (Prophylaxis) - [**2203-12-29**] 04:15 AM
   Metoprolol - [**2203-12-29**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2203-12-29**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 97 (80 - 97) bpm
   BP: 147/76(88) {109/47(62) - 156/77(91)} mmHg
   RR: 27 (19 - 28) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 78 kg
             Total In:
                                                                    690 mL
                                                                    450 mL
   PO:
                                                                    630 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     60 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    790 mL
   Urine:
                                                                  1,230 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   on L, Rhonchorous: L > R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   178 K/uL
   125 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   70 mg/dL
   108 mEq/L
   143 mEq/L
   33.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2203-12-26**]  02:06 AM
                             [**2203-12-26**]  03:00 PM
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
   WBC
   10.1
   9.5
   11.2
   11.0
   Hct
   29.4
   29.0
   30.0
   33.0
   Plt
   120
   139
   179
   178
   Cr
   2.5
   2.5
   2.4
   2.7
   2.3
   2.0
   TropT
   0.13
   TCO2
   26
   Glucose
   106
   125
   108
   111
   103
   125
   Other labs: CK / CKMB / Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: some increase evidence of pulm edema (R lung).  [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   continues to have dense infiltrate
   Assessment and Plan
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Continues to have high O2 requirement.  Cont
   vanc/cefepime.  Cont supportive care - pt is DNR/DNI.  Will try for
   500cc neg diuresis today given CXR appearance today.  Cont nebs.
   2. Afib/RVR: prn beta blocker - HR currently well controlled for now.
   3. Mental status: Improved today.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-12-26**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2203-12-31 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints
   24 Hour Events:
   Continues to sat when having mask off for even short periods
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2203-12-30**] 08:10 PM
   Vancomycin - [**2203-12-31**] 08:50 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2203-12-30**] 04:55 PM
   Heparin Sodium (Prophylaxis) - [**2203-12-31**] 08:50 AM
   Pantoprazole (Protonix) - [**2203-12-31**] 11:06 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea, Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2203-12-31**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96.1
   HR: 72 (72 - 89) bpm
   BP: 130/58(77) {109/33(49) - 160/80(88)} mmHg
   RR: 27 (18 - 29) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,160 mL
                                                                    670 mL
   PO:
                                                                    800 mL
                                                                    410 mL
   TF:
   IVF:
                                                                    360 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    653 mL
   Urine:
                                                                  1,460 mL
                                                                    653 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, mildly tachypneic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   on R, Rhonchorous: on L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   230 K/uL
   123 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   64 mg/dL
   108 mEq/L
   146 mEq/L
   32.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2203-12-26**]  02:06 AM
                             [**2203-12-26**]  03:00 PM
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
   WBC
   10.1
   9.5
   11.2
   11.0
   13.4
   13.5
   Hct
   29.4
   29.0
   30.0
   33.0
   32.8
   32.4
   Plt
   120
   139
   179
   178
   222
   230
   Cr
   2.5
   2.5
   2.4
   2.7
   2.3
   2.0
   1.6
   1.6
   TropT
   0.13
   TCO2
   26
   Glucose
   106
   125
   108
   111
   103
   125
   156
   123
   Other labs: CK / CKMB / Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Continues to have high O2 requirement.  Cont
   vanc/cefepime.  He has been slow to improve but is afebrile, so we will
   continue with current abx.  Will try to send a new sputum culture is
   possible.
   2. Mental status: Pt is tired today but is oriented and conversive
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-12-26**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2204-01-01 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Confused last PM - but improved today
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Vancomycin - [**2203-12-31**] 08:50 AM
   Cefipime - [**2203-12-31**] 08:09 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2203-12-31**] 08:51 PM
   Morphine Sulfate - [**2204-1-1**] 04:34 AM
   Pantoprazole (Protonix) - [**2204-1-1**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-1**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2204-1-1**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 87 (64 - 93) bpm
   BP: 119/46(64) {99/35(54) - 156/76(90)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,220 mL
                                                                    130 mL
   PO:
                                                                    860 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    360 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,223 mL
                                                                    355 mL
   Urine:
                                                                  1,223 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout L > R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive,
   slightly sleepy
   Labs / Radiology
   9.4 g/dL
   243 K/uL
   141 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   69 mg/dL
   108 mEq/L
   143 mEq/L
   30.3 %
   17.1 K/uL
        [image002.jpg]
                             [**2203-12-26**]  02:06 AM
                             [**2203-12-26**]  03:00 PM
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
   WBC
   10.1
   9.5
   11.2
   11.0
   13.4
   13.5
   17.1
   Hct
   29.4
   29.0
   30.0
   33.0
   32.8
   32.4
   30.3
   Plt
   120
   139
   179
   178
   222
   230
   243
   Cr
   2.5
   2.5
   2.4
   2.7
   2.3
   2.0
   1.6
   1.6
   1.5
   TropT
   0.13
   TCO2
   26
   Glucose
   106
   125
   108
   111
   103
   125
   156
   123
   141
   Other labs: CK / CKMB / Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: some increased clearing of L lower lung field
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Cont vanc/cefepime.  Ongoing high O2
   requirements - but sats dropping less with talking today and CXR
   improved
   2. Loose bowel movements: Givenincreased WBC, will send c.diff.
   3. Mental status: Oriented today, still getting confused at night.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2203-12-31**] 06:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2204-01-02 09:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   c/o chest discomfort this AM but now resolved
   24 Hour Events:
 EKG - At [**2204-1-1**] 03:43 PM
 STOOL CULTURE - At [**2204-1-1**] 08:03 PM
   c-diff
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-1**] 07:45 PM
   Vancomycin - [**2204-1-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-1-1**] 07:46 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2204-1-2**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.6
   HR: 73 (59 - 80) bpm
   BP: 139/47(71) {89/37(52) - 144/74(91)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                    870 mL
                                                                    380 mL
   PO:
                                                                    360 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    510 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    360 mL
   Urine:
                                                                    770 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    100 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 89%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout, loud)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent but
   arousable
   Labs / Radiology
   9.6 g/dL
   261 K/uL
   149 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.7 mEq/L
   75 mg/dL
   108 mEq/L
   144 mEq/L
   31.9 %
   18.8 K/uL
        [image002.jpg]
                             [**2203-12-26**]  03:00 PM
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
   WBC
   9.5
   11.2
   11.0
   13.4
   13.5
   17.1
   18.8
   Hct
   29.0
   30.0
   33.0
   32.8
   32.4
   30.3
   31.9
   Plt
   139
   179
   178
   222
   230
   243
   261
   Cr
   2.5
   2.4
   2.7
   2.3
   2.0
   1.6
   1.6
   1.5
   1.7
   TCO2
   26
   Glucose
   125
   108
   111
   103
   125
   156
   123
   141
   149
   Other labs: PT / PTT / INR:12.5/27.5/1.1, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Cont vanc/cefepime - 14 day course
   2. Loose bowel movements: C. diff positive - start Flagyl po x14 days
   3. Mental status: Oriented today but somnolent
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2204-1-2**] 08:58 AM
   22 Gauge - [**2204-1-2**] 08:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2204-01-03 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM off of NIPPV - breathing feels comfortable
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2204-1-2**] 04:45 PM --> remained on
   NIPPV overnight
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Metronidazole - [**2204-1-2**] 09:30 AM
   Cefipime - [**2204-1-2**] 08:14 PM
   Vancomycin - [**2204-1-2**] 11:14 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2204-1-2**] 04:40 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2204-1-3**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 75 (58 - 85) bpm
   BP: 142/60(79) {97/32(46) - 144/60(79)} mmHg
   RR: 23 (19 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,474 mL
                                                                    114 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,234 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    900 mL
   Urine:
                                                                    960 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                   -786 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 631 (543 - 989) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///30/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   8.4 g/dL
   246 K/uL
   121 mg/dL
   1.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   80 mg/dL
   110 mEq/L
   146 mEq/L
   27.2 %
   16.8 K/uL
        [image002.jpg]
                             [**2203-12-26**]  05:41 PM
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
   WBC
   9.5
   11.2
   11.0
   13.4
   13.5
   17.1
   18.8
   16.8
   Hct
   29.0
   30.0
   33.0
   32.8
   32.4
   30.3
   31.9
   27.2
   Plt
   139
   179
   178
   222
   230
   243
   261
   246
   Cr
   2.4
   2.7
   2.3
   2.0
   1.6
   1.6
   1.5
   1.7
   1.7
   TCO2
   26
   Glucose
   108
   111
   103
   125
   156
   123
   141
   149
   121
   Other labs: PT / PTT / INR:12.5/27.5/1.1, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:8.5 mg/dL, Mg++:2.3
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Cont vanc/cefepime - 14 day course.  Holding
   vanc today and rechaeck level tomorrow before redosing.  CXR improved
   today but still remains hypoxemic
   2. Loose bowel movements: C. diff positive - start Flagyl po x14 day
   after finishing abx
   3. Mental status: Better today
   4. Hypernatrema: fH20 repletion
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2204-1-2**] 08:58 AM
   22 Gauge - [**2204-1-2**] 08:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2204-01-04 10:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Back on NIPPV for several hrs this AM but now off
   More somnolent than yesterday
   24 Hour Events:
   History obtained from Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Metronidazole - [**2204-1-2**] 09:30 AM
   Vancomycin - [**2204-1-2**] 11:14 PM
   Cefipime - [**2204-1-3**] 08:28 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2204-1-3**] 04:16 PM
   Furosemide (Lasix) - [**2204-1-4**] 06:31 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-4**] 09:41 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2204-1-4**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 75 (58 - 80) bpm
   BP: 141/47(57) {102/33(50) - 155/70(82)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,390 mL
                                                                    107 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,290 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    960 mL
   Urine:
                                                                  1,640 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                   -853 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 593 (372 - 593) mL
   PS : 7 cmH2O
   RR (Spontaneous): 25
   PEEP: 7 cmH2O
   FiO2: 95%
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: L > R), squeaks at L apex
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   261 K/uL
   127 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.8 mEq/L
   78 mg/dL
   109 mEq/L
   145 mEq/L
   30.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2203-12-27**]  02:41 AM
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
   WBC
   9.5
   11.2
   11.0
   13.4
   13.5
   17.1
   18.8
   16.8
   17.5
   Hct
   29.0
   30.0
   33.0
   32.8
   32.4
   30.3
   31.9
   27.2
   30.3
   Plt
   139
   179
   178
   222
   230
   243
   261
   246
   261
   Cr
   2.4
   2.7
   2.3
   2.0
   1.6
   1.6
   1.5
   1.7
   1.7
   1.7
   Glucose
   108
   111
   103
   125
   156
   123
   141
   149
   121
   127
   Other labs: PT / PTT / INR:12.5/27.5/1.1, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Cont vanc/cefepime - 14 day course.  CXR
   improving but still very hypoxemic.  WIll start 5 day course of
   prednisone 40mg daily.
   2. Loose bowel movements: C. diff positive - Flagyl po x14 day after
   finishing abx
   3. Mental status: continues to wax and wane
   4. Hypernatrema: fH20 repletion
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2204-1-3**] 04:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2204-01-05 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No need for NIPPV overnight
   24 Hour Events:
 PICC LINE - START [**2204-1-4**] 02:00 PM
   History obtained from Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Vancomycin - [**2204-1-2**] 11:14 PM
   Cefipime - [**2204-1-4**] 07:59 PM
   Metronidazole - [**2204-1-5**] 12:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2204-1-4**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2204-1-4**] 07:58 PM
   Morphine Sulfate - [**2204-1-4**] 11:33 PM
   Haloperidol (Haldol) - [**2204-1-5**] 02:08 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2204-1-5**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 68 (63 - 96) bpm
   BP: 108/37(53) {108/37(53) - 165/63(87)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                    390 mL
                                                                    202 mL
   PO:
             TF:
   IVF:
                                                                    390 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    280 mL
   Urine:
                                                                  2,230 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,840 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: Standby
   FiO2: 95%
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, somnolent but arousable
   Responds to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   224 K/uL
   112 mg/dL
   1.6 mg/dL
   31 mEq/L
   4.6 mEq/L
   81 mg/dL
   113 mEq/L
   151 mEq/L
   26.6 %
   15.2 K/uL
        [image002.jpg]
                             [**2203-12-28**]  03:16 AM
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
                            [**2204-1-5**]  04:38 AM
   WBC
   11.2
   11.0
   13.4
   13.5
   17.1
   18.8
   16.8
   17.5
   15.2
   Hct
   30.0
   33.0
   32.8
   32.4
   30.3
   31.9
   27.2
   30.3
   26.6
   Plt
   179
   178
   222
   230
   243
   261
   [**Telephone/Fax (3) 11159**]
   Cr
   2.7
   2.3
   2.0
   1.6
   1.6
   1.5
   1.7
   1.7
   1.7
   1.6
   Glucose
   111
   103
   125
   156
   123
   141
   149
   121
   127
   112
   Other labs: PT / PTT / INR:12.5/27.5/1.1, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due to L -sided pneumonia
   1. Respiratory Failure: Cont vanc/cefepime - 14 day course.  Holding
   vanc for high level - recheck tomorrow.  Prednisone 40mg daily x5 days
   2. C. diff positive:  Flagyl po x14 day after finishing abx
   3. Mental status: continues to wax and wane
   4. Hypernatrema: fH20 repletion - need to be more aggressive
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2204-1-3**] 04:31 PM
   PICC Line - [**2204-1-4**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Patient is critically ill.
   Total time spent: 32 min

2204-01-06 09:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, afib/RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   afib/rvr overnight --> dilt gtt started --> brady to 30s on dilt -->
   dilt d/c'd and HR normalized (in 60s this AM)
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2204-1-5**] 02:54 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-5**] 08:18 PM
   Metronidazole - [**2204-1-6**] 12:34 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2204-1-5**] 08:50 PM
   Heparin Sodium (Prophylaxis) - [**2204-1-5**] 08:55 PM
   Diltiazem - [**2204-1-5**] 09:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2204-1-6**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 53 (51 - 131) bpm
   BP: 124/35(56) {86/35(55) - 157/64(83)} mmHg
   RR: 24 (18 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,255 mL
                                                                    911 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,155 mL
                                                                    911 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    210 mL
   Urine:
                                                                  1,570 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    685 mL
                                                                    701 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L lower eyelid sty
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered), improved air movement on L
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   7.8 g/dL
   263 K/uL
   175 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.3 mEq/L
   74 mg/dL
   111 mEq/L
   145 mEq/L
   25.6 %
   16.6 K/uL
        [image002.jpg]
                             [**2203-12-28**]  05:17 PM
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
                            [**2204-1-5**]  04:38 AM
                            [**2204-1-6**]  03:28 AM
   WBC
   11.0
   13.4
   13.5
   17.1
   18.8
   16.8
   17.5
   15.2
   16.6
   Hct
   33.0
   32.8
   32.4
   30.3
   31.9
   27.2
   30.3
   26.6
   25.6
   Plt
   178
   222
   230
   243
   261
   246
   261
   224
   263
   Cr
   2.3
   2.0
   1.6
   1.6
   1.5
   1.7
   1.7
   1.7
   1.6
   1.5
   Glucose
   103
   125
   156
   123
   141
   149
   121
   127
   112
   175
   Other labs: PT / PTT / INR:12.5/27.5/1.1, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   87 yo man with afib/RVR, in MICU with hypoxemic resp failure (not
   intubated) due multilobar pneumonia L > R.
   1. Respiratory Failure: Cont vanc/cefepime - 14 day course.  Continues
   to need high flow O2 and desats when mask is off.  Methylpred 40mg
   daily x5 days (last day [**1-8**])
   2. C. diff positive:  Flagyl po x14 day after finishing abx
   3. Afib/RVR: no further dilt gtt for now.  HR normalized
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2204-1-3**] 04:31 PM
   PICC Line - [**2204-1-4**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2204-01-07 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man with severe multifocal PNA, involving entire left lung.  Has
   had difficulties with AFib and also c/b C.diff.  Has been DNR/DNI, so
   managing with NIPPV.  Overnight had rapid AFib, got IV lopressor, PO
   lopressor with good HR response.
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-7**] 12:30 AM
   Metronidazole - [**2204-1-7**] 01:00 AM
   Vancomycin - [**2204-1-7**] 08:47 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-1-6**] 04:00 PM
   Metoprolol - [**2204-1-7**] 06:30 AM
   Pantoprazole (Protonix) - [**2204-1-7**] 08:50 AM
   Other medications:
   flovent
   singulair
   SSI
   ASA
   albuterol
   atrovent
   lopressor 7.5mg q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-1-7**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 72 (56 - 135) bpm
   BP: 127/42(64) {107/27(54) - 158/89(98)} mmHg
   RR: 26 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,321 mL
                                                                    594 mL
   PO:
             TF:
   IVF:
                                                                  1,321 mL
                                                                    594 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    375 mL
   Urine:
                                                                    710 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin, mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Wheezes :
   expiratory, Rhonchorous: b/l)
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, lethargic
   today
   Labs / Radiology
   8.3 g/dL
   238 K/uL
   110 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.7 mEq/L
   70 mg/dL
   113 mEq/L
   149 mEq/L
   28.0 %
   14.5 K/uL
        [image002.jpg]
                            [**2203-12-29**]  06:00 AM
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
                            [**2204-1-5**]  04:38 AM
                            [**2204-1-6**]  03:28 AM
                            [**2204-1-7**]  03:16 AM
   WBC
   11.0
   13.4
   13.5
   17.1
   18.8
   16.8
   17.5
   15.2
   16.6
   14.5
   Hct
   33.0
   32.8
   32.4
   30.3
   31.9
   27.2
   30.3
   26.6
   25.6
   28.0
   Plt
   178
   222
   230
   243
   261
   246
   261
   224
   263
   238
   Cr
   2.0
   1.6
   1.6
   1.5
   1.7
   1.7
   1.7
   1.6
   1.5
   1.3
   Glucose
   125
   156
   123
   141
   149
   121
   127
   112
   175
   110
   Other labs: PT / PTT / INR:14.9/36.7/1.3, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   Respiratory distress:  getting broad spectrum antibiotics for PNA.
   empiric steroids.  CXR with improvement.
   Can try and wean to Nasal cannula and face tent.
   Afib:  in IV lopressor with good controle.
   C. diff:  On flagyl IV
   hypernatremia:  on D5
   MS: somewhat poor today, somnolent, might be due to poor sleep
   overnight.  So will observe.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2204-1-4**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2204-01-08 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man with Afib with mulitfocal PNA, respiratory distress.
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-8**] 12:00 AM
   Metronidazole - [**2204-1-8**] 08:08 AM
   Vancomycin - [**2204-1-8**] 09:21 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2204-1-7**] 12:08 PM
   Pantoprazole (Protonix) - [**2204-1-8**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-8**] 08:50 AM
   Other medications:
   s/q heparin
   wellbutrin
   singulaire
   MVI
   SSI
   ASA
   albuterol
   atrovent
   singluair
   ASA
   MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-1-8**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.1
C (95.2
   HR: 67 (50 - 84) bpm
   BP: 146/51(75) {86/33(56) - 155/79(83)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  1,822 mL
                                                                  1,389 mL
   PO:
             TF:
   IVF:
                                                                  1,822 mL
                                                                  1,389 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    365 mL
   Urine:
                                                                    980 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    842 mL
                                                                  1,024 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin, mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: scalp tumours
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l), upper airway
   sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   215 K/uL
   173 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.6 mEq/L
   66 mg/dL
   112 mEq/L
   147 mEq/L
   25.8 %
   12.6 K/uL
        [image002.jpg]
                            [**2203-12-30**]  04:23 AM
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
                            [**2204-1-5**]  04:38 AM
                            [**2204-1-6**]  03:28 AM
                            [**2204-1-7**]  03:16 AM
                            [**2204-1-8**]  03:50 AM
   WBC
   13.4
   13.5
   17.1
   18.8
   16.8
   17.5
   15.2
   16.6
   14.5
   12.6
   Hct
   32.8
   32.4
   30.3
   31.9
   27.2
   30.3
   26.6
   25.6
   28.0
   25.8
   Plt
   222
   230
   243
   261
   [**Telephone/Fax (3) 11182**]
   215
   Cr
   1.6
   1.6
   1.5
   1.7
   1.7
   1.7
   1.6
   1.5
   1.3
   1.3
   Glucose
   156
   123
   141
   149
   121
   127
   112
   175
   110
   173
   Other labs: PT / PTT / INR:14.9/36.7/1.3, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   Respiratory distress, multifocal PNA:  Looks better today. Continue
   broad spectrum antibiotics.
   Hypernatremia:  continue free water, slow improvement.
   Renal failure:  slow improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2204-1-4**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2204-01-09 12:29:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man with multifocal PNA.
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-8**] 12:00 AM
   Metronidazole - [**2204-1-9**] 08:00 AM
   Vancomycin - [**2204-1-9**] 11:36 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2204-1-8**] 08:00 PM
   Pantoprazole (Protonix) - [**2204-1-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-9**] 08:00 AM
   Other medications:
   wellbutrin
   flovent
   singulaire
   asa
   albuterol
   atrovent
   protonix
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-1-9**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 74 (52 - 79) bpm
   BP: 142/53(75) {104/34(54) - 150/91(96)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  2,779 mL
                                                                    507 mL
   PO:
             TF:
   IVF:
                                                                  2,779 mL
                                                                    507 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    485 mL
   Urine:
                                                                  1,230 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,549 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): not oriented, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.4 g/dL
   211 K/uL
   155 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.6 mEq/L
   57 mg/dL
   110 mEq/L
   144 mEq/L
   25.3 %
   10.5 K/uL
        [image002.jpg]
                            [**2203-12-31**]  02:50 AM
                            [**2204-1-1**]  05:30 AM
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
                            [**2204-1-5**]  04:38 AM
                            [**2204-1-6**]  03:28 AM
                            [**2204-1-7**]  03:16 AM
                            [**2204-1-8**]  03:50 AM
                            [**2204-1-9**]  02:58 AM
   WBC
   13.5
   17.1
   18.8
   16.8
   17.5
   15.2
   16.6
   14.5
   12.6
   10.5
   Hct
   32.4
   30.3
   31.9
   27.2
   30.3
   26.6
   25.6
   28.0
   25.8
   25.3
   Plt
   230
   243
   261
   [**Telephone/Fax (3) 11159**]
   263
   238
   215
   211
   Cr
   1.6
   1.5
   1.7
   1.7
   1.7
   1.6
   1.5
   1.3
   1.3
   1.3
   Glucose
   123
   141
   149
   121
   127
   112
   175
   110
   173
   155
   Other labs: PT / PTT / INR:14.9/36.7/1.3, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: improved b/l infiltrates
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   severe PNA:  having slow improvment.  CXR is improving.    Finished a
   short coarse of steroids.
      -    continue nebs and oxygen.
   C. diff:  on flagyl
   nutrition:  needs a better nutrition plan because he is not eating
   enough.   Will discuss giving him a dobhoff.
   If he refuses will consider changing to a double lumen pic to give him
   TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2204-1-4**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2204-01-10 10:46:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man with severe multifocal PNA, had one episode of melena
   yesterday night.
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Vancomycin - [**2204-1-9**] 11:36 AM
   Metronidazole - [**2204-1-9**] 03:14 PM
   Cefipime - [**2204-1-10**] 12:14 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2204-1-9**] 01:01 PM
   Morphine Sulfate - [**2204-1-10**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-1-10**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 81 (64 - 97) bpm
   BP: 138/58(79) {104/32(51) - 162/106(110)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                    775 mL
                                                                    157 mL
   PO:
             TF:
   IVF:
                                                                    775 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    405 mL
   Urine:
                                                                  1,105 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -331 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l diffusely,
   Diminished: Left side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): To self and place, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   220 K/uL
   95 mg/dL
   1.2 mg/dL
   29 mEq/L
   5.0 mEq/L
   50 mg/dL
   111 mEq/L
   146 mEq/L
   27.2 %
   11.5 K/uL
        [image002.jpg]
                            [**2204-1-2**]  04:10 AM
                            [**2204-1-3**]  01:34 AM
                            [**2204-1-4**]  05:59 AM
                            [**2204-1-5**]  04:38 AM
                            [**2204-1-6**]  03:28 AM
                            [**2204-1-7**]  03:16 AM
                            [**2204-1-8**]  03:50 AM
                            [**2204-1-9**]  02:58 AM
                            [**2204-1-9**]  06:08 PM
                            [**2204-1-10**]  06:11 AM
   WBC
   18.8
   16.8
   17.5
   15.2
   16.6
   14.5
   12.6
   10.5
   11.5
   Hct
   31.9
   27.2
   30.3
   26.6
   25.6
   28.0
   25.8
   25.3
   25.1
   27.2
   Plt
   261
   246
   261
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 11199**]
   Cr
   1.7
   1.7
   1.7
   1.6
   1.5
   1.3
   1.3
   1.3
   1.2
   Glucose
   149
   121
   127
   112
   175
   110
   173
   155
   95
   Other labs: PT / PTT / INR:14.9/36.7/1.3, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:1.0 mmol/L, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   CXR improving, and sounds better on exam with better air entry, but
   still very hypoxemic.
   GIB:  follow stool guaiac.  Increase PPI to [**Hospital1 **]
   Will start TPN as he likely won't want NGT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2204-1-4**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2204-01-11 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo with severe CAP.  Has been steadily improving - now on 5L NC.
   24 Hour Events:
 PICC LINE - STOP [**2204-1-10**] 09:55 AM
 PICC LINE - START [**2204-1-10**] 10:00 AM
 ANGIOGRAPHY - At [**2204-1-10**] 03:25 PM
   PICC reposition
 PICC LINE - START [**2204-1-10**] 03:31 PM
 PICC LINE - STOP [**2204-1-10**] 03:35 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-10**] 12:14 AM
   Vancomycin - [**2204-1-10**] 06:58 PM
   Metronidazole - [**2204-1-11**] 08:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2204-1-10**] 05:56 PM
   Morphine Sulfate - [**2204-1-11**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-11**] 08:11 AM
   Other medications:
   wellbutrin
   flovent
   singulaire
   MVI
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Nausea
   Flowsheet Data as of  [**2204-1-11**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 77 (61 - 92) bpm
   BP: 134/120(123) {112/39(58) - 175/121(126)} mmHg
   RR: 27 (13 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                    520 mL
                                                                    777 mL
   PO:
             TF:
   IVF:
                                                                    520 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    445 mL
   Urine:
                                                                    965 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -446 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.33/61/61/31/3
   PaO2 / FiO2: #Division by zero#
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   193 K/uL
   113 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.9 mEq/L
   48 mg/dL
   113 mEq/L
   149 mEq/L
   28.1 %
   10.6 K/uL
        [image002.jpg]
                            [**2204-1-5**]  04:38 AM
                            [**2204-1-6**]  03:28 AM
                            [**2204-1-7**]  03:16 AM
                            [**2204-1-8**]  03:50 AM
                            [**2204-1-9**]  02:58 AM
                            [**2204-1-9**]  06:08 PM
                            [**2204-1-10**]  06:11 AM
                            [**2204-1-10**]  05:45 PM
                            [**2204-1-11**]  03:06 AM
                            [**2204-1-11**]  04:48 AM
   WBC
   15.2
   16.6
   14.5
   12.6
   10.5
   11.5
   10.6
   Hct
   26.6
   25.6
   28.0
   25.8
   25.3
   25.1
   27.2
   28.1
   Plt
   [**Telephone/Fax (2) 11205**]
   193
   Cr
   1.6
   1.5
   1.3
   1.3
   1.3
   1.2
   1.2
   1.2
   TCO2
   34
   Glucose
   112
   175
   110
   173
   155
   95
   211
   113
   Other labs: PT / PTT / INR:14.5/34.7/1.3, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:0.7 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   Respiratory distress:  Will diurese goal -500cc to help his respiratory
   status
   PNA:  few additional days of vanco for severe pneumonia
   AF control:  is on IV lopressor
   GIB:  hold asa for now/  Melanotic stool may be been from C. diff.
   hypernatremic:  likely due to not getting fluids.  Should improve with
   TPN.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2204-1-11**] 12:00 AM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2204-1-10**] 03:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2204-01-12 11:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man with Afib and PNA- plan to go to rehab today.  Had AF with
   RVR this morning responded to dilt and Afib.
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Cefipime - [**2204-1-10**] 12:14 AM
   Vancomycin - [**2204-1-10**] 06:58 PM
   Metronidazole - [**2204-1-12**] 08:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2204-1-11**] 12:36 PM
   Metoprolol - [**2204-1-12**] 06:14 AM
   Diltiazem - [**2204-1-12**] 06:22 AM
   Pantoprazole (Protonix) - [**2204-1-12**] 08:50 AM
   Heparin Sodium (Prophylaxis) - [**2204-1-12**] 08:50 AM
   Other medications:
   wellbutrin
   flonase
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-1-12**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 62 (51 - 122) bpm
   BP: 157/59(85) {107/33(61) - 159/76(93)} mmHg
   RR: 26 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 74.9 kg (admission): 78 kg
   Height: 65 Inch
             Total In:
                                                                  3,271 mL
                                                                  1,047 mL
   PO:
             TF:
   IVF:
                                                                  2,263 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    445 mL
   Urine:
                                                                  1,545 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,726 mL
                                                                    602 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   154 K/uL
   198 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   46 mg/dL
   111 mEq/L
   147 mEq/L
   27.5 %
   11.8 K/uL
        [image002.jpg]
                            [**2204-1-7**]  03:16 AM
                            [**2204-1-8**]  03:50 AM
                            [**2204-1-9**]  02:58 AM
                            [**2204-1-9**]  06:08 PM
                            [**2204-1-10**]  06:11 AM
                            [**2204-1-10**]  05:45 PM
                            [**2204-1-11**]  03:06 AM
                            [**2204-1-11**]  04:48 AM
                            [**2204-1-11**]  05:12 PM
                            [**2204-1-12**]  04:43 AM
   WBC
   14.5
   12.6
   10.5
   11.5
   10.6
   11.9
   11.8
   Hct
   28.0
   25.8
   25.3
   25.1
   27.2
   28.1
   28.5
   27.5
   Plt
   238
   215
   211
   220
   193
   173
   154
   Cr
   1.3
   1.3
   1.3
   1.2
   1.2
   1.2
   1.2
   1.1
   TCO2
   34
   Glucose
   110
   173
   155
   95
   [**Telephone/Fax (3) 11224**]98
   Other labs: PT / PTT / INR:13.4/38.3/1.1, CK / CKMB /
   Troponin-T:74//0.13, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   Respiratory distress:  is worse today.  Might be due to fluid
   overload.  Will try and more aggressively diurese
   AFib:  responding to AF
   nutrition:  continue TPN
   overall prognosis is poor, but not good for leaving today.
   C.diff: on IV flagyl for two weeks following completion of vanco.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2204-1-11**] 06:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2204-1-10**] 03:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes